Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
doxycycline
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
___ with history HLD, ductal carcinoma in situ (s/p lumpectomy) 
presented to the ___ ED on ___ with chest pain found to have 
elevated troponins concerning for NSTEMI.  
 Pt states that she awoke at 5 AM with sharp, substernal chest 
pain. The pain was ___ and self resolved after 20 minutes. She 
went to work, and the chest pain recurred while she was walking. 
It was associated with shortness of breath dizziness and 
shaking. She felt near syncopal.  
 She reports that in the past ___ years she has been hospitalized 
at ___ and ___ for "elevated troponins." She reports she 
has never had a cardiac catheterization although the 
cardiologist at ___ was strongly considering it.  
 Of note, she reports that over the past 2 weeks she has had 
dyspnea on exertion with having to stop while climbing a flight 
of stairs, not normal for her. She has also had increased 
shortness of breath in general. For the past several years, she 
has had near-syncopal episodes. She says these occur in the 
morning, after she has washed up and fed her cats, and are 
associated with a prodrome of "vision going dark, getting 
nauseous, feeling lightheaded and chest tightness." She denies 
having fallen or actually passed out from these events. She has 
been seeing a cardiologist and neurologist at ___, thought to 
have ?migraine and was started on nortriptyline without 
improvement.  
 She presented to ___, where an EKG showed a CTA 
CHEST was done which was concerning for a "severe stenosis in 
the proximal LAD and the suggestion of a myocardial infarction 
of uncertain age involving the subendocardial apex and inferior 
septum."  
 In the ED initial vitals were: T 99.0, HR 55, BP 120/53, RR 16, 
O2 100% on RA  
 EKG: normal sinus rhythm, HR ___, slightly flattened T-wave in 
lead III, otherwise no significant ST-segment changes concerning 
for ischemia. Not significant changed from the prior.  
 Labs/studies notable for: Trop 0.62  
 Patient was given: ASA 324 mg, hep gtt  
 On the floor, the patient is alert and bright, and reports 
feeling much better compared to when she first came into the ED. 
She denies chest pain at this time. She notes that she was in 
___ recently. She recently had lumpectomy for DCIS of the 
right breast 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
 - Dyslipidemia  
 - Father had MI at ___ yo  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - ET (reports having had BM biopsy at ___, on hydroxyurea)  
 - Bell palsy in the 1980s  
 - Mitral valve prolapse  
 - HLD  
 - Ductal carcinoma in situ of right breast  

 
Social History:
___
Family History:
MOM- Died of breast cancer  
FATHER- Had MI at age ___, died at ___ from MI.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VS: afebrile, BP 110/70s, HR ___, RR 16, 95% RA  
GENERAL: Alert, tanned woman, oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Preferential 
bliinking of the right eye, left facial droop. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. No chest wall tenderness, steri strips on right breast in 
place.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

========================

DISCHARGE PHYSICAL EXAM:

VS: AF, HR 80-99, BP 96-132/58-70, RR 16, 95-100% RA
Wt: 69.7 <- 71.3
I/O: none recorded
Tele: No events 
GENERAL: Alert, tanned woman, oriented x3. Mood, affect 
appropriate.  
HEENT: PERRL, EOMI. Preferential blinking of the right eye, left 
facial droop.
NECK: Supple with JVP of 7 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts. No chest wall tenderness, steri strips on right breast in 
place.  
LUNGS: CTAB  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS:

___ 05:00PM BLOOD WBC-8.6 RBC-2.84* Hgb-11.7 Hct-34.0 
MCV-120* MCH-41.2* MCHC-34.4 RDW-16.3* RDWSD-73.8* Plt ___
___ 05:00PM BLOOD Neuts-72.1* Lymphs-18.7* Monos-8.8 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-6.18* AbsLymp-1.61 
AbsMono-0.76 AbsEos-0.00* AbsBaso-0.01
___ 05:00PM BLOOD Plt ___
___ 06:00PM BLOOD ___ PTT-30.3 ___
___ 05:00PM BLOOD Glucose-101* UreaN-19 Creat-0.9 Na-133 
K-6.7* Cl-99 HCO3-21* AnGap-20
___ 05:00PM BLOOD CK(CPK)-279*
___ 05:00PM BLOOD CK-MB-16* MB Indx-5.7 cTropnT-0.62*
___ 05:55AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.2

==========================

PERTINENT LABS:

___ 06:50AM BLOOD proBNP-___*
___ 12:29AM BLOOD CK-MB-17* cTropnT-0.57*
___ 05:55AM BLOOD CK-MB-14* cTropnT-0.41*

==========================

IMAGING/STUDIES:

TTE ___:

The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size. There is mild regional left ventricular systolic 
dysfunction with hypokinesis of the mid- and distal septum and 
apex (LAD territory). The remaining segments contract normally 
(LVEF = 40%). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. Mild (1+) mitral regurgitation 
is seen. The pulmonary artery systolic pressure could not be 
determined. There is no pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction. 
Mild mitral regurgitation. 

CARDIAC CATHETERIZATION ___:

Not available at time of discharge

==========================

DISCHARGE LABS:

___ 06:50AM BLOOD Glucose-116* UreaN-16 Creat-0.8 Na-138 
K-4.2 Cl-104 HCO3-22 AnGap-___ year old female with h/o CAD, HLD, reported MVP, essential 
thrombocytosis, Bell palsy who is presenting with chest pain, 
found to have ECG changes and elevated troponin (peak 0.62) 
concerning for NSTEMI. CTA in clinic negative for PE. The 
patient underwent cardiac catheterization ___ showed normal 
coronary arteries. ECHO showed EF 40%, hypokinesis of the mid- 
and distal septum and apex c/f stress cardiomyopathy. The 
patient was started on lisinopril in addition to her home 
medications with plans to follow-up with Cardiology for further 
management.

======================

CARDIAC STATUS:

# CORONARIES: Cardiac cath ___ normal coronaries
# PUMP: TTE ___ with EF 40% hypokinesis of the mid- and distal 
septum and apex 
# RHYTHM: ECG ___ SR at 95, NA. STE V2,V3. STD II 

======================

ACTIVE ISSUES:

# Acute HFrEF: New diagnosis based on TTE ___ showed EF 40%, 
hypokinesis of the mid- and distal septum and apex. C/f stress 
cardiomyopathy given normal cardiac cath on ___. No signs of 
volume overload. Patient was started on lisinopril 5 mg, which 
was well tolerated and continued home metoprolol succ 25. 
Patient was instructed to keep a 2g sodium restriction and 2L 
fluid restriction.

# Chest Pain
# NSTEMI: Pt presented with CP. ECG with possible STE in V2,V3 
and STD in II. TropT 0.62. OSH CTA CHEST with severe stenosis of 
___ LAD. Cardiac catheterization ___ reportedly with normal 
coronaries. Likely type II NSTEMI in setting of cardiomyopathy 
vs type I in setting of vasospasm. Trops peaked on ___ at 0.62 
and downtrended. Continued ASA 81, atorvastatin 80 mg, 
metoprolol succ 25.

# Syncopal episodes: based on her history, most consistent with 
vasovagal episodes. In light of her cardiac events, should be 
monitored on telemetry to see if there is a contributing 
arrhythmia. ET treated with hydroxyurea, unclear if has been 
symptomatic from MVP before but no sudden collapses. ECHO with 
no valvular abnormalities to explain syncope.
 
CHRONIC ISSUES:  

# depression: Continued home paroxetine 50 mg

# breast cancer:  
 - recent lumpectomy for DCIS, steri strips still on  
 - has outpatient followup arranged through Atrius providers  
 
=========================== 

TRANSITIONAL ISSUES: 

- New Meds: Lisinopril 5 mg
- Stopped/Held Meds: None 
- Changed Meds: None
- Post-Discharge Follow-up Labs Needed: Chem 10 within 1 week to 
check electrolytes and Cr on lisinopril
- Discharge weight: 69.7 kg 
- Discharge diuretic: None
- New HFrEF: Will need repeat ECHO in the next ___ months to 
evaluate progression vs resolution. Could also consider cardiac 
MR to help further characterize. Pt was euvolemic on discharge 
at weight above. Will need evaluation within 7 days to determine 
if needs medication adjustment. 
# CODE: full 
# CONTACT: HCP: ___, daughter ___ 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 80 mg PO QPM 
2. Nortriptyline 20 mg PO QHS 
3. PARoxetine 20 mg PO DAILY 
4. Hydroxyurea 1000 mg PO 5X/WEEK (___) 
5. Hydroxyurea 500 mg PO 2X/WEEK (___) 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. budesonide-formoterol 80-4.5 mcg/actuation inhalation BID 
8. Aspirin 81 mg PO DAILY 
9. Vitamin B Complex 1 CAP PO DAILY 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  budesonide-formoterol 80-4.5 mcg/actuation inhalation BID  
5.  Hydroxyurea 1000 mg PO 5X/WEEK (___)  
6.  Hydroxyurea 500 mg PO 2X/WEEK (___)  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Nortriptyline 20 mg PO QHS  
9.  PARoxetine 20 mg PO DAILY  
10.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1)Acute systolic heart failure
# Non-ST elevated myocardial infarction
# Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital because you had chest pain. 
Your heart arteries were examined (cardiac catheterization) 
which was normal with NO blockage of the arteries. An ultrasound 
of your heart showed that your heart is weak and does not 
squeeze properly, a condition called heart failure. The reason 
for this is unclear but often times this can improve with proper 
treatment. You were started on a new medicine for this 
(lisinopril) and will need close follow up with your 
cardiologist to discuss increasing the dose of your medicines. 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below) 
- Weigh yourself every day and call your doctor if your weight 
goes up by more than 3 lbs. 
- Follow up with your doctors as listed below  
- Seek medical attention if you have new or concerning symptoms 
or you develop chest pain, swelling in your legs, abdominal 
distention, or shortness of breath at night. 
 
It was a pleasure participating in your care. We wish you the 
best!  
-Your ___ Care Team  
 
Followup Instructions:
___